US06846961B2
Preparation of 3,5-bis(1,1,3,3-tetramethylbutyl)salicylaldehyde
2,4-bis(1,1,3,3-tetramethylbutyl)phenol (26.2 g, 82.4 mmol, synthesized by the method described in U.S. Pat. No. 3,373,210), toluene (200 ml) and 2,6-lutidine (14.4 g, 135 mmol) was placed in a stirred flask under a blanket of nitrogen and the mixture was cooled to 0° C. SnCl4 (8.57 g, 33 mmol) was then carefully added. The mixture was subsequently stirred at room temperature for 20 minutes, before paraformaldehyde (15.1 g, 502 mmol) was added. The mixture was then stirred at 100° C. for 12 hours. After cooling, hydrochloric acid (1 M, 272 ml) was added. The resulting suspension was filtered through Celite and the solid was washed with 100 ml of ethyl acetate. The organic phase of the filtrate was then separated off, washed twice with 100 ml of NaCl solution, dried over MgSO4 and evaporated at reduced pressure. A slightly yellowish oil was formed as product. According to GC/MS, this crude product contains only about 3% of starting material. Yield: 26.9 g (94%).

reactant | 2,4-bis(1,1,3,3-tetramethylbutyl)phenol | CC(CC(C)(C)C)(C)C1=C(C=CC(=C1)C(CC(C)(C)C)(C)C)O | C22H38O
reactant | 2,6-lutidine | 135 mmol, 14.4 g | N1=C(C=CC=C1C)C | C7H9N
reactant | SnCl4 | 33 mmol, 8.57 g | Cl[Sn](Cl)(Cl)Cl
reactant | paraformaldehyde | 502 mmol, 15.1 g | C=O | CH2O
reactant | hydrochloric acid | 1 M, 272 ml | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-bis(1,1,3,3-tetramethylbutyl)salicylaldehyde | CC(CC(C)(C)C)(C)C1=C(C(C=O)=CC(=C1)C(CC(C)(C)C)(C)C)O | C23H38O2
